US07790747B2
Using general procedure E with 3-(1,4-dioxa-8-aza-spiro[4.5]dec-8-yl)-butylamine (4.50 g, 21.0 mmol) and 4,6-dimethyl-pyrimidine-5-carboxylic acid (3.20 g, 21.0 mmol), followed by purification by column chromatography on silica gel (2-10% MeOH/CH2Cl2) gave 4,6-dimethyl-pyrimidine-5-carboxylic acid [3-(1,4-dioxa-8-aza-spiro[4.5]dec-8-yl)-butyl]-amide (5.10 g, 73%).

reactant | 3-(1,4-dioxa-8-aza-spiro[4.5]dec-8-yl)-butylamine | 21.0 mmol, 4.50 g | O1CCOC12CCN(CC2)C(CCN)C | C11H22N2O2
reactant | 4,6-dimethyl-pyrimidine-5-carboxylic acid | 21.0 mmol, 3.20 g | CC1=NC=NC(=C1C(=O)O)C | C7H8N2O2
product | 4,6-dimethyl-pyrimidine-5-carboxylic acid [3-(1,4-dioxa-8-aza-spiro[4.5]dec-8-yl)-butyl]-amide | 5.10 g, 73% | O1CCOC12CCN(CC2)C(CCNC(=O)C=2C(=NC=NC2C)C)C | C18H28N4O3
